US04086350
To 1.2 l g. (0.05 mol) of magnesium turnings covered by tetrahydrofuran in an Argon atmosphere is added about 0.5 g. of 4-chloro-N-methylpiperidine (from 8.5 g., 0.025 mol of the hydrochloride salt) and a small amount of ethyl bromide. The mixture is heated until the reaction is initiated, the remainder of the chloro compound in about 20 ml. of tetrahydrofuran is added and the mixture is refluxed for four hours. 2-Bromothioxanthone (7.3 g., 0.025 mol) is added and the mixture is refluxed for five hours, and then stirred at room temperature 3 days. The reaction mixture is poured into aqueous ammonium chloride and filtered to give 2-bromo-9(1-methyl-4-piperidyl)thioxanthene-9-ol, m.p. 225.5°-226° C.

reactant | magnesium | 0.05 mol | [Mg] | Mg
reactant | 4-chloro-N-methylpiperidine | ClC1CCN(CC1)C | C6H12ClN
reactant | ethyl bromide | C(C)Br | C2H5Br
reactant | 2-Bromothioxanthone | 0.025 mol, 7.3 g | BrC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H7BrOS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-bromo-9(1-methyl-4-piperidyl)thioxanthene-9-ol | BrC1=CC=2C(C3=CC=CC=C3SC2C=C1)(O)C1CCN(CC1)C | C19H20BrNOS
